US05350762
1,2,3,4-Tetrahydro-7-methoxy-4-methylcylopent[b]indole-2-carboxylic acid
To a solution of 1,2,3,4-tetrahydro-7-methoxy-4-methylcyclopent[b]indole-2-carboxylic acid ethyl ester (6.2 g, 0.023 mole) in 25 ml of ethanol, was added dimethylamine (40% aqueous solution, 10 ml, 0.09 mole). After stirring at 100° C. in a sealed tube for four days, the solution was concentrated to a brown oil (~6 g), which was eluted on a silica gel column with 20% methanol/ethyl acetate via HPLC. The desired fraction was concentrated to a tan solid, 5.0 g, m.p. 162°-164° C.

reactant | 1,2,3,4-tetrahydro-7-methoxy-4-methylcyclopent[b]indole-2-carboxylic acid ethyl ester | 0.023 mole, 6.2 g | C(C)OC(=O)C1CC2=C(N(C=3C=CC(=CC23)OC)C)C1 | C16H19NO3
reactant | dimethylamine | 0.09 mole, 10 ml | CNC | C2H7N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-7-methoxy-4-methylcylopent[b]indole-2-carboxylic acid | COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)C(=O)O | C14H15NO3
